US06248757B1
5.2. (S)-3-[5-[8-amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl]2-oxo-2,3-dihydro-1,3,4-oxadiazol-3-yl]pyrrolidine-1-pentanoic acid
0.50 g (0.85 mmol) of methyl (S)-3-[5-[7-chloro-8-[[(phenylmethoxy)carbonyl]amino]-2,3-dihydro-1,4-benzodioxin-5-yl]2-oxo-2,3-dihydro-1,3,4-oxadiazol-3-yl]pyrrolidine-l-pentanoate dissolved in 5 ml of concentrated aqueous hydrochloric acid is placed in a 25 ml round-bottomed flask and the reaction medium is refluxed for 22 h.

reactant | methyl (S)-3-[5-[7-chloro-8-[[(phenylmethoxy)carbonyl]amino]-2,3-dihydro-1,4-benzodioxin-5-yl]2-oxo-2,3-dihydro-1,3,4-oxadiazol-3-yl]pyrrolidine-l-pentanoate | 0.85 mmol, 0.50 g | ClC=1C=C(C2=C(OCCO2)C1NC(=O)OCC1=CC=CC=C1)C1=NN(C(O1)=O)[C@@H]1CN(CC1)CCCCC(=O)OC | C28H31ClN4O8
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | (S)-3-[5-[8-amino-7-chloro-2,3-dihydro-1,4-benzodioxin-5-yl]2-oxo-2,3-dihydro-1,3,4-oxadiazol-3-yl]pyrrolidine-1-pentanoic acid | NC1=C(C=C(C2=C1OCCO2)C2=NN(C(O2)=O)[C@@H]2CN(CC2)CCCCC(=O)O)Cl | C19H23ClN4O6
